US04649160
3.63 g of 2,4-difluorophenethyl alcohol were reacted with 2.17 g of chloroacetic acid in a manner analogous to that described in Example 1(a), except that the reaction mixture was heated at 120° C. for 1 hour, to give 2.7 g (54%) of 2-(2,4-difluorophenyl)ethoxyacetic acid in the form of an oil which was homogeneous according to chromatography.

reactant | 2,4-difluorophenethyl alcohol | 3.63 g | FC1=C(CCO)C=CC(=C1)F | C8H8F2O
reactant | chloroacetic acid | 2.17 g | ClCC(=O)O | C2H3ClO2
product | 2-(2,4-difluorophenyl)ethoxyacetic acid | 2.7 g, 54% | FC1=C(C=CC(=C1)F)CCOCC(=O)O | C10H10F2O3
